US05750541
A. 4-Methyl-1-(phenoxycarbonyl)-1,4-dihydropyridine
In a dry 500 ml three neck flask under nitrogen, a solution of cuprous iodide (0.28 g, 1.5 mmol) and dimethyl sulfide (8 ml) in 30 ml of dry THF was stirred at room temperature for 10 minutes. Pyridine (2.43 ml, 30 mmol) in 120 ml of dry THF was added to the reaction, then cooled to -25° C. Phenylchloroformate (3.9 ml, 30 mmol) in 10 ml dry THF was added to the reaction via an addition funnel (a thick brown precipitate formed immediately upon addition). The mixture was stirred for 15 minutes. Methyl magnesium chloride (10 ml, 30 mmol) was added to the mixture via syringe whereupon the brown precipitate dissolved. The reaction was stirred at -25° C. for 20 minutes then stirred at room temperature for 20 minutes. 20% NH4Cl(aq) (70 ml) was added to the reaction. The mixture was then extracted with 150 ml diethyl ether. The organic extract was then washed with 40 ml portions of 20% NH4 Cl(aq) /NH4OH (1:1), water, 10% HCl(aq), water, and brine. The organic layer was then dried over NaCl/Na2SO4, filtered, and concentrated to yield 5.9 g of a yellow oil. Kugelrohr distillation (bp. 150°-170° C., 1 mmHg) to yield 4.9 g (77%) of the desired compound (A). B. 3-Formyl-4-methyl-1-(phenoxycarbonyl)-1,4-dihydropyridine To a dry 50 ml flask under nitrogen, DMF (7.44 ml, 97 mmol) in 10 ml of dichloromethane was cooled to 0° C. Phosphorus oxychloride (4.5 ml, 48 mmol) was slowly added to the solution. The solution was stirred at room temperature for 30 minutes. (A) (4.7 g, 22 mmol) in 40 ml of dichloromethane was stirred in a 100 ml two neck flask under nitrogen at 0° C. The DMF/Phosphorus oxychloride solution was transferred to an addition funnel via cannula then slowly added to the (A)/dichloromethane solution. The ice bath was then removed, and the reaction was stirred at room temperature for 20 hours. The reaction was cooled to 0° C. whereupon a solution of potassium acetate (15 g) in 50 ml of water was carefully added via the addition funnel. The mixture was then allowed to reflux for 20 minutes. The methylene chloride layer was separated then extracted once more with 100 ml methylene chloride. The organic phases were combined then washed with 40 ml portions of water, K2CO3(aq), water and brine, then dried over NaCl/Na2SO4. The organics were concentrated on a rotary evaporator to yield 4 g of a brown oil. Purified by flash chromatography over silica gel eluting with ethyl acetate/hexane. Yield 2.0 g (37%) of the desired compound (B).

reactant | 3-Formyl-4-methyl-1-(phenoxycarbonyl)-1,4-dihydropyridine | C(=O)C1=CN(C=CC1C)C(=O)OC1=CC=CC=C1 | C14H13NO3
reactant | DMF | 97 mmol, 7.44 ml | CN(C)C=O | C3H7NO
reactant | Phosphorus oxychloride | 48 mmol, 4.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF Phosphorus oxychloride | CN(C)C=O.P(=O)(Cl)(Cl)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-Methyl-1-(phenoxycarbonyl)-1,4-dihydropyridine | 4 g | CC1C=CN(C=C1)C(=O)OC1=CC=CC=C1 | C13H13NO2
